US05709867
(a) Preparation of benzyl 4-[α-acetamido-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acetamido]benzoate
1.5 g (3.2 mmol) of benzyl 4-[α-amino-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acetamido]benzoate, 75 ml of THF and 490 μl (3.5 mmol) of triethylamine were introduced into a round-bottomed flask. 250 μl (3.5 mmol) of acetyl chloride were added dropwise and the mixture was stirred at room temperature for 2 hours. The reaction medium was poured into water, extracted with ethyl acetate, the organic phase decanted, dried over magnesium sulfate and evaporated. The residue obtained was triturated in hexane, filtered and dried. 1.6 g (94%) of the expected compound of melting point 258°-259° C. was obtained.

reactant | benzyl 4-[α-amino-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acetamido]benzoate | 3.2 mmol, 1.5 g | NC(C(=O)NC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C30H34N2O3
reactant | THF | 75 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 3.5 mmol, 490 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.5 mmol, 250 μl | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | benzyl 4-[α-acetamido-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acetamido]benzoate | 1.6 g, 94% | C(C)(=O)NC(C(=O)NC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C32H36N2O4
